US04847303
t-Butyllithium (1.7 ml of a 1.8M solution of hexane; 3 equiv.) is added to THF (1 ml) and cooled to -78° C. under argon with stirring, and a solution of 2-bromo-6-trifluoromethylphenol in dry THF (1 ml; 1 mmol) is added dropwise via syringe. The reaction is stirred 30 minutes, and then iodomethane (340 mg; 2.4 equiv.) is added dropwise via syringe at -78° C. under argon, with stirring. The mixture is allowed to warm to 0° C. with stirring over 15 minutes, and stirring is continued for 45 minutes more. The reaction is then quenched with 1N HCl (3 ml) and extracted from 1N HCl (10 ml) with 3×10 ml portions of ether. The combined ether portions are washed with water (3×20 ml portions: pH tests neutral), and the solution is then dried (MgSO4), filtered, and concentrated in vacuo to give crude 2-methyl-6 -trifluoromethylphenol, which is chromatographed on silica gel with 5% ether in petroleum ether to give pure product.

reactant | t-Butyllithium | C(C)(C)(C)[Li]
reactant | 2-bromo-6-trifluoromethylphenol | BrC1=C(C(=CC=C1)C(F)(F)F)O | C7H4BrF3O
reactant | iodomethane | 340 mg, 2.4 equiv. | IC | CH3I
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 1 mmol, 1 ml | C1CCOC1 | C4H8O
product | 2-methyl-6 -trifluoromethylphenol | CC1=C(C(=CC=C1)C(F)(F)F)O | C8H7F3O
